US03953604
A solution of 2,6-dihydroxyacetophenone (15.2 g), p-t-butylphenylglycidyl ether (20.6 g) and benzyltrimethylammonium hydroxide (5 drops of a 40% solution) in 2-ethoxyethanol (75 ml) was heated under reflux for 48 hours. The solvent was removed under reduced pressure giving 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-t-butylphenoxypropane (38.85 g) as a viscous orange oil.

reactant | 2,6-dihydroxyacetophenone | 15.2 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | p-t-butylphenylglycidyl ether | 20.6 g | C(C)(C)(C)C1=CC=C(C=C1)C(C1CO1)OC(C1CO1)C1=CC=C(C=C1)C(C)(C)C | C26H34O3
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
product | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-t-butylphenoxypropane | 38.85 g | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)C(C)(C)C)O)C=CC=C1O | C21H26O5
